US08303944B2
To (S)-(9H-fluoren-9-yl)methyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-2-methylpyrrolidine-1-carboxylate (intermediate LS32; 329 mg; 0.62 mmol) in 3 mL DMF was added 1.5 mL piperidine. The reaction mixture was concentrated via a nitrogen stream overnight. The resultant residue was washed with hexane and passed through an MCX cartridge (Oasis; 6 g; preconditioned with two column lengths of methanol). The cartridge was washed with two column lengths of methanol and product was eluted with ammonia/methanol. Concentration provided 193 mg of (S)-5-(4-bromophenyl)-2-(2-methylpyrrolidin-2-yl)-1H-imidazole which was dissolved in 6 mL dichloromethane and combined with di-t-butyldicarbonate (413 mg; 1.89 mmol), DMAP (15 mg; 0.13 mmol) and TEA (0.17 mL; 1.30 mmol). After 48 h, the reaction mixture was concentrated and purified via chromatography on a Biotage system providing (S)-tert-butyl 5-(4-bromophenyl)-2-(1-(tert-butoxycarbonyl)-2-methylpyrrolidin-2-yl)-1H-imidazole-1-carboxylate (intermediate LS33; 150 mg; 48%) as an off white solid. LC (Cond'n 5): RT=3.75 min; MS: Anal. Calcd. for [M+H]+ C24H32BrN3O4: 506.2. found 506.4

reactant | (S)-(9H-fluoren-9-yl)methyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-2-methylpyrrolidine-1-carboxylate | 0.62 mmol, 329 mg | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@]1(N(CCC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C | C29H26BrN3O2
reactant | piperidine | 1.5 mL | N1CCCCC1 | C5H11N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)-5-(4-bromophenyl)-2-(2-methylpyrrolidin-2-yl)-1H-imidazole | 193 mg | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@]1(NCCC1)C | C14H16BrN3
